US04212829
9.60 Grams (0.060 mole) of bromine were added dropwise to 9.90 g (0.050 mole) of m-phenoxybenzaldehyde at 0° C. taking a period of 1 hour with vigorous stirring. After the addition was finished, the reaction was continued for a further 3 hours at the same temperature. The unreacted bromine was distilled off under reduced pressure from the reaction system to obtain m-(p-bromophenoxy)benzaldehyde (No. 9 in Table 2).

reactant | bromine | 0.060 mole | BrBr | Br2
reactant | m-phenoxybenzaldehyde | 0.050 mole, 9.90 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
product | m-(p-bromophenoxy)benzaldehyde | BrC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9BrO2
